Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-5.10034490878
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.45585844348
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3],6.99976732256
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]#[C:11][H:12],2.36424074261
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.92633424937
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.48700080174
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4],5.32634668411
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][O:3],3.53853521705
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.6109966594
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.5711602734
[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[O:10][H:11]>>[H:1][C:2][C@@:3]1([H:4])[C:5]([H:6])([H:7])[C@:8]1([H:9])[O:10][H:11],-0.30630701313
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.54593894524
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.37229356
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.87567604506
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])[H:11].[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-2.76007262873
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:14]([H:15])([H:16])[H:17],8.28629699043
[C:2]([H:5])=[C:9]([H:10])[H:11].[O:1][C:4](=[O:3])[C:6]([H:7])([H:8])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.4270673913300005
[H:11].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.05912687313
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[O:8][H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.73179473143
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.34994759579
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],1.49868111744
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.68685309621
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.09537931549
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])=[C:11]([H:12])[H:13].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.34163806775
[C:2]#[C:3][O:4][C:5][C:6]([H:7])[H:8].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-5.47424859934
[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-2.34914777713
[C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-4.34494578615
